2132-12-09 10:13:00 Physician Attending Progress Note
Chief Complaint: sepsis, hypotension, hypoxemia, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80M w/ complicated [**1-22**] mo course following traumatic splenic laceration
   with splenic embolization with infarct & splenic abscess necessitating
   surgical splenectomy, c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]-cutaneous fistula, persistent
   intraabdominal polymicrobial (stenotroph, enterococcus, resistant PSA)
   abscess requiring percutaneous drain,  tracheostomy.
   Represented to [**Hospital1 5**] [**12-3**] with abd pain and distention.  Seen by
   surgery but not felt to have acute surgical intra-abd process.
   Subsequent hospital course notable for L pleural effusion s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] c/b
   PNX and CT placement, d/c
d [**12-6**], fevers and leukocytosis. Found to
   have gpc bacteremia yesterday, with picc line pulled and vanco started.
   Overnight had intractable vomiting, w/ aspiration event leading to
   hypoxemia, with atnibx broadened.  Had ongoing fevers, tachycardia and
   hypotension. Noted to be in afib with rvr treated with BB, cal ch b and
   fluids without improvement. Transferred to MICU for further management.
   24 Hour Events:
 SPUTUM CULTURE - At [**2132-12-9**] 06:00 AM
   --Antibx broadened
   --C diff cx returned pos and PO vanco and iv flagyl
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2132-12-9**] 06:00 AM
   Tobramycin - [**2132-12-9**] 07:30 AM
   Vancomycin - [**2132-12-9**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-12-9**] 08:00 AM
   Other medications:
   reviewed (per [**Month (only) **])
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-9**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 128 (128 - 143) bpm
   BP: 95/52(62) {80/45(52) - 96/57(64)} mmHg
   RR: 27 (21 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             5,220 mL
   PO:
             TF:
   IVF:
   5,220 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,070 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Thin elderly M, alert, NAD
   Eyes / Conjunctiva: MMD
   Trach site clean
   Coarse BS, symm CW excursion
   RR tachy
   Abdominal: Soft, Distended, JP drain with purulent drainage, + BS, NT
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
        Wbc 11, hct 31, cr 0.6, serum bicarb 28, lfts wnl, a/l wnl, inr
   1.0
   Microbiology: gpc clusters [**12-7**]
   c diff pos [**12-8**]
   splenic drain 4+ GNR, GPR, GPC
   Assessment and Plan
   80M w/ complicated [**1-22**] mo course following traumatic splenic laceration
   with surgical splenectomy, c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]-cutaneous fistula, persistent
   intraabdominal abscess w/ percutaneous drain and antibx course,
   tracheostomy,  recent  pleural effusion s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] with c/b PNX  s/p [**Hospital 1650**]
   transferred to MICU w/ sepsis.  Likely from c diff.
   Primary issues include:
         Fevers
         Hypotension
         Tachycardia
         Hypoxemia
         Aspiration pna
         C diff colitis
         GPC bacteremia (picc line infection)
         Intra-abd abscess
   Agree with plan to treat for sepsis with
   --Broad antbxs to cover multiple potential and known infectious
   precipitants including  c diff, asp pna, line infection, and intra-abd
   abscess--flagyl IV and PO vanco tobra, IV vanco and cefepime. ID
   consult to guide antbx coverage. Surgical input regarding ongoing
   management of splenic fluid collection seen on CT,? need for
   replacement of perc drain, vs. washout.  Check KUB given vomiting to
   r/o perf, obstruction, and to eval for evidence of toxic megacolon.
   Once more HD stabilized consider repeat CT.
   -Hypotension appears multifactorial and [**1-21**] sepsis, hypovolemia,
   increased tachycardia, and pharmacological agents.  Aggressive IVFs for
   MAPS >60 mmHg.  Vasopressor as needed (levophed as first line). Would
   trend lactates and place CVL and a-line for improved access and
   invasive BP monitoring. Once adequately fluid resus check SVO2.
   --His tachycardia is likely from fevers, infection and hypovolemia.
   Would hold on nodal agents and reassess after adequate fluid ressus.
   Send CEs and check ECG.
   --Respiratory distress and hypoxia attributed to evolving infection in
   setting of aspiration event, on background of COPD with significant
   bulus lung ds.  ABGs with low threshold for replacement on ventilator.
   Remainder as outlined in resident note.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill
   Addendum:
   I was present throughout CVL attempts.  Sterile technique was used.  L
   SC V was accessed easily but unable to thread wire despite good blood
   flow.  ? possible clot.  Urgent R fem line was placed instead given
   need for pressors and improved access.
   Addendum;
   Pt continues to mentate and is maintaining O2 sats on TM without
   evidence of fatiguing.  He remains hypotensive, requiring vasopressor
   support, despite aggressive IVF resus (10lL).   CT reviewed.  L base
   shows increased ASD likely from asp pna.  Abd findings discussed with
   surgery.  No evidence of toxic megacolon.  Will monitor serial abd
   exams, follow lactate and abgs. Low threshold to initiate vent support
   via trach if becomes academic or fatigues.  ID input appreciated
   regarding complicated antibx for severe C diff, line infection, and asp
   pna.  Pt remains critically ill and very tensuous.  Will obtain us of
   neck v to assess clot as would like to change out groin line to CVL.
   Will also obtain TTE to eval cardiac fx.
   Additional crit care time in review and discussion:  40 min

2132-12-10 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2132-12-9**] 11:00 AM
 MULTI LUMEN - START [**2132-12-9**] 11:14 AM
 ARTERIAL LINE - START [**2132-12-9**] 11:16 AM
 EKG - At [**2132-12-9**] 10:20 PM
 BLOOD CULTURED - At [**2132-12-10**] 06:08 AM
   - placed CVL (femoral), aline, NGT placed
   - ID consult: d/c all antibiotics except PO/PR Vanc, Flagyll and
   Cefepime (pending CT and lung fields)
   - started Phenlyephrine, Norepinephrine -> norepi increase, vasopressin
   turned on and phenylephrine turned off
   - Discontinued tiotropium given that it cannot be given in conjunction
   with ipratropium
   -JP fluid with pseudomonas
   -repleted mag only in pm, WBC increasing, Hct decreasing 2pt.
   - Patient ordered for upper extremity ultrasound to assess for any IJ
   or subclavian thrombosis
   - Patient ordered for TTE to assess baseline cardiac function
   -EKG fine
   -descending colon with pneumatosis, ?early ischemic bowel versus subcut
   air.  surgery states not a surgical candidate anyway so no itnervention
   at that time.
   -CT without toxic megacolon and no SBO.  CT also with LLL pneumonia, so
   continued Cefepime.
   -foley in prostate on CT so it was advanced.
   -blood was coag neg staph-still treating
   -maintained great uop of 150-600cc/hr as of m/n
   -no tpn per surgery (and we agree)
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2132-12-9**] 07:30 AM
   Cefipime - [**2132-12-9**] 10:09 PM
   Metronidazole - [**2132-12-10**] 06:16 AM
   Vancomycin - [**2132-12-10**] 06:16 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-12-9**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-12-9**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-10**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (98.9
   HR: 87 (80 - 142) bpm
   BP: 93/49(67) {76/39(54) - 129/68(91)} mmHg
   RR: 28 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 12,366 mL
                                                                    768 mL
   PO:
             TF:
   IVF:
                                                                 11,401 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  1,110 mL
   Urine:
                                                                  3,590 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,776 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Trach mask at 50% FiO2
   SpO2: 95%
   ABG: 7.45/37/77/24/1
   PaO2 / FiO2: 154
   Physical Examination
   Gen: sleeping comfortably in bed, responding appropriately but slowly
   to questions
   HEENT: NCAT, PERRL, OP clear, MMM, neck supple
   CV: RRR, S1, S2, no m/r/g
   Pulm: coarse breath sounds throughout, with rhonchi bilaterally heard
   in axilla (anterior exam only)
   Abd: soft, distended, LLQ tenderness to palpation with guarding but no
   rebound
   Extrem: stable 1+ edema in all four extremities, palpable pulses
   throughout
   Labs / Radiology
   369 K/uL
   7.6 g/dL
   121 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   138 mEq/L
   24.8 %
   31.8 K/uL
        [image002.jpg]
                            [**2132-12-9**]  10:25 AM
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
   WBC
   24.3
   27.9
   32.5
   31.8
   Hct
   27.5
   25.4
   26.4
   24.8
   Plt
   [**Telephone/Fax (3) 10659**]69
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   25
   27
   Glucose
   105
   94
   121
   121
   Other labs: PT / PTT / INR:13.5/34.0/1.2, ALT / AST:26/23, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:68.0 %, Band:4.0 %, Lymph:20.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9 g/dL,
   LDH:254 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Lactate 1.0 (stable)
   Imaging: 1. Unchanged left-sided pneumothorax and left thoracic wall
   subcutaneous
   emphysema.
   2. Bilateral pneumonia and consolidations.
   3. Pneumatosis within the descending colon without bowel thickening or
   other
   features of ischemic colitis. Other considerations include air tracking
   from
   adjacent drains or subcutaneous emphysema.
   4. Foley catheter ending within the prostate.
   5. Resolution of anterior abdominal wall collection.
   6. Slight increase in size of abdominal aortic aneurysm.
   TTE [**12-8**]: The left ventricle is not well seen. The aortic valve is not
   well seen. The mitral valve leaflets are not well seen. IMPRESSION:
   Extremely sub-optimal image quality renders evaluation impossible.
   No CXR this AM
   Microbiology:
   Blood cultures [**2132-12-7**]:  GPCs in clusters (coag negative staph)
   (others from [**2132-12-3**], [**2132-12-8**], negative to date)
   .
   Sputum culture [**2132-12-8**]: GNR, [**12-9**]  Pending
   .
   PICC culture [**2132-12-8**]:  Pending
   .
   Splenic bed drain fluid [**2132-12-8**]:  4+   (>10 per 1000X FIELD): PMNS
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS
   .
Pleural fluid [**2132-12-4**]:  GRAM STAIN (Final [**2132-12-8**]):
      REPORTED BY PHONE TO SHAINE KOTTATHLIS @ 0620 ON [**12-8**] - 11R.
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      3+   (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS, CHAINS, AND CLUSTERS.
  FLUID CULTURE (Preliminary):
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
   .
   C diff [**2132-12-8**], [**12-9**]:  positive
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PNEUMONIA, ASPIRATION
   80 yo male with complicated medical course over the past 3 months
   initially secondary to splenic bleed, c/b splenic abscess, splenectomy,
   colocutaneous fistula, intra-abdominal abscess s/p drainage,
   respiratory failure requiring tracheostomy, pleural effusion s/p
   thoracentesis c/b pneumothorax s/p chest tube placement, transferred
   from the floor for fever, tachycardia and hypoxia.
   .
   #.  Fever/Sepsis:  The patient has multiple sources for bacteremia
   (GPCs in blood [**2132-12-7**]), including intra-abdominal
   abscess/colocutaneous fistula (drain growing 4+GNR, 4+ gram pos rods,
   3+ GPCs), line infection (PICC removed [**2132-12-8**]), pneumonia (witnessed
   aspiration event).  Most obvious source for overwhelming infection
   would be C diff, especially given finding of pneumatosis on CT
   (although that could be explained by  colocutaneous fistula).  Also has
   bilateral pneumonia on CXR with pneural fluid growing pseudomonas.  Now
   fluid resuscitated, but continues on pressor support.
   - attempt to wean pressors, but maintain MAP > 65.
   - Treat empirically with vanc IV, PO, and PR, and flagyl.  Will change
   cefepime to tigecycline today, as it covers broadly and may confer
   additional treatment for c diff.
   - ID following, recs appreciated; have requested pseudomonas
   sensitivities, also suggested +/- adding amikacin
   - Follow culture data and narrow as tolerated
   - Will cancel TTE, as patient clinically much improved
   .
   #.  Hypoxia:  Likely secondary to aspiration pneumonitis in setting of
   COPD and tracheobronchomalacia, CXR shows LLL pna.  The patient has had
   a left sided diagnostic thoracentesis with subsequent pneumothorax
   during this admission.  CXR on arrival shows developing left sided
   infiltrate, likely secondary to recent aspiration event.  No evidence
   of recurrence of pleural effusion or pneumothorax.  Will maintain on
   trach mask and wean as tolerated.  Will do aggressive suctioning as
   needed.
   - Appreciate IP and thoracics recommendations
   - Continue atrovent nebulizers standing and PRN
   - f/u pending sputum cultures
   .
   #.  Tachycardia:  The patient was thought to be in atrial fibrillation
   on the floor, s/p multiple boluses of nodal agents including metoprolol
   and diltiazem.  EKG on arrival appeared to be more likely to be sinus
   tachycardia.  Resolved with fluid resuscitation, will continue to
   monitor.
   .
   #.  CAD:  EKG on arrival shows sinus tachycardia, no ischemic changes.
   Will continue aspirin, statin and hold metoprolol given hypotension.
   .
   #.  HTN:  Currently hypotensive, hold all anti-hypertensives.
   .
   #.  HLD:  Continue statin.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Insulin SS
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   Multi Lumen - [**2132-12-9**] 11:14 AM; will leave in femoral line for now,
   but plan to remove when off pressors and additional long term access
   can be obtained (possibly PICC)
   Arterial Line - [**2132-12-9**] 11:16 AM
   Prophylaxis:
   DVT: SQ heparin TID
   Stress ulcer: H2 blocker
   VAP:
   Comments: raglan, zofran and compazine
   Communication:  Comments:  Patient and [**First Name8 (NamePattern2) 1509**] [**Last Name (NamePattern1) 9603**] Daughter (h)
   [**Telephone/Fax (1) 10635**], (c)[**Telephone/Fax (1) 10636**]
   Code status: Full Code
   Disposition: ICU

2132-12-10 11:50:00 Physician Attending Progress Note
Chief Complaint: sepsis, hypotension, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80M w/ complicated [**1-22**] mo course following traumatic splenic laceration
   with surgical splenectomy, c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]-cutaneous fistula, persistent
   intraabdominal abscess w/ percutaneous drain and antibx course,
   tracheostomy,  recent  pleural effusion s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] with c/b PNX  s/p [**Hospital 1650**]
   transferred to MICU w/ sepsis.  Likely from c diff.
   24 Hour Events:
 BLOOD CULTURED - At [**2132-12-9**] 11:00 AM
 MULTI LUMEN - START [**2132-12-9**] 11:14 AM
 ARTERIAL LINE - START [**2132-12-9**] 11:16 AM
 EKG - At [**2132-12-9**] 10:20 PM
 BLOOD CULTURED - At [**2132-12-10**] 06:08 AM
   R fem and a-line placed.
   aggressive IVFs
   Overnight vasopressin added to levophed (neo stopped).  Levophed
   tapered down.
   ID consult appreciated.
   CT torso yesterday--residual L pnx, sq emphysema, pna b,pneumotosis
   descending colon, decrease in ant abd collection, no toxic [**Last Name (un) **]-colon
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2132-12-9**] 07:30 AM
   Cefipime - [**2132-12-9**] 10:09 PM
   Metronidazole - [**2132-12-10**] 06:16 AM
   Vancomycin - [**2132-12-10**] 09:54 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-12-10**] 07:41 AM
   Heparin Sodium (Prophylaxis) - [**2132-12-10**] 08:09 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-10**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.4
C (97.6
   HR: 84 (79 - 142) bpm
   BP: 99/49(70) {76/39(54) - 129/68(91)} mmHg
   RR: 19 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 12,366 mL
                                                                    991 mL
   PO:
             TF:
   IVF:
                                                                 11,401 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  1,395 mL
   Urine:
                                                                  3,590 mL
                                                                  1,395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,776 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: 7.45/37/77/24/1
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   369 K/uL
   121 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   138 mEq/L
   24.8 %
   31.8 K/uL
        [image002.jpg]
                            [**2132-12-9**]  10:25 AM
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
   WBC
   24.3
   27.9
   32.5
   31.8
   Hct
   27.5
   25.4
   26.4
   24.8
   Plt
   [**Telephone/Fax (3) 10659**]69
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   25
   27
   Glucose
   105
   94
   121
   121
   Other labs: PT / PTT / INR:13.5/34.0/1.2, ALT / AST:26/23, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:68.0 %, Band:4.0 %, Lymph:20.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9 g/dL,
   LDH:254 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Microbiology: c diff +
   bl gcp clusters [**12-7**] (CNS), [**12-8**]--> pending
   sputum GNR [**12-8**], [**12-9**]
   JP drain --ploymicrobial growth
   pleural fluid with polymicrobial growth
   Assessment and Plan
   80M w/ complicated [**1-22**] mo course following traumatic splenic laceration
   with surgical splenectomy, c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]-cutaneous fistula, persistent
   intraabdominal abscess w/ percutaneous drain and antibx course,
   tracheostomy,  recent  pleural effusion s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] with c/b PNX  s/p [**Hospital 1650**]
   transferred to MICU w/ sepsis, likely from severe c diff and asp pna.
   Improving.
   Primary issues include:
         Fevers
             Leukocytosis
         Hypotension
         Tachycardia
         Hypoxemia
         Aspiration pna
         C diff colitis
         GPC bacteremia (picc line infection)
         Intra-abd abscess
   Agree with plan to  continue broad antibx for known infectious sites
   including severe ciff, pna, pleural infection and line infection.  F/u
   cx results. Id and surgical input appreciated.
   --Hypotension appears multifactorial and [**1-21**] sepsis, hypovolemia,
   increased tachycardia, and pharmacological agents prior to transfer.
   Improving after aggressive IVFS.  Wean pressors. Lactate has normalized
   and making good urine output.
   --His tachycardia was ikely from fevers, infection and hypovolemia as
   well as med effect (pressors).  Now much improved.  Will hold on TTE at
   this time.
   --Stable from resp standpoint without evidence of fatiguing. Continue
   to montior O2 sats and clinical status.
   Remainder as outlined in resident note.
   ICU Care
   Nutrition:  Will keep NPO at this time given colonic infection.  Will
   probably require TPN bridge, but will hold as septic picture improves.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   Multi Lumen - [**2132-12-9**] 11:14 AM
will obtain picc once AF.
   Arterial Line - [**2132-12-9**] 11:16 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-12-11 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2132-12-10**] 08:07 PM
   Overnight, pressors stopped, he tolerated well.
   **tachycardic into 110s; Gave 500cc NSx2 for tachycardia overnight
   **Nurse concerned that penile discharge/fecal material getting onto
   groin line
   **trial off pressors o/n and doing well
   --per ID, switched from cefepime to tigecycline to inhibit toxin
   production
   --added on sensitivities from sputum Cx to colistin
   --IV vanc x 7 days for coag negative staph assoc. with line
   --had worsening LLQ pain: surgery considering CT abdommen/pelvis
   tomorrow AM
   --Lactate trending down to 0.8.
   This AM, patient reports breathing is stable.  No f/c/n/v overnight.
   No new pain.
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2132-12-9**] 07:30 AM
   Cefipime - [**2132-12-9**] 10:09 PM
   Metronidazole - [**2132-12-11**] 06:20 AM
   Vancomycin - [**2132-12-11**] 06:20 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-12-10**] 10:01 PM
   Heparin Sodium (Prophylaxis) - [**2132-12-10**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-11**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.7
C (96.3
   HR: 109 (79 - 121) bpm (given fluid)
   BP: 113/56(78) {86/45(61) - 118/66(84)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,083 mL
                                                                  1,219 mL
   PO:
             TF:
   IVF:
                                                                  2,663 mL
                                                                  1,089 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    380 mL
   Urine:
                                                                  2,345 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    738 mL
                                                                    839 mL
   Respiratory support
   O2 Delivery Device: Trach mask at 50% FiO2
   SpO2: 99%
   ABG: 7.46/35/82.[**Numeric Identifier 253**]/23/1
   PaO2 / FiO2: 166
   Physical Examination
   Gen: sleeping comfortably in bed, responding appropriately but slowly
   to questions
   HEENT: NCAT, PERRL, OP clear, MMM, neck supple
   CV: RRR, S1, S2, no m/r/g
   Pulm: coarse breath sounds throughout, with rhonchi bilaterally heard
   in axilla (anterior exam only)
   Abd: soft, distended, LLQ tenderness to palpation with guarding but no
   rebound
   Extrem: stable 1+ edema in all four extremities, palpable pulses
   throughout
   Labs / Radiology
   346 K/uL
   7.6 g/dL
   95 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   17 mg/dL
   108 mEq/L
   137 mEq/L
   24.3 %
   28.9 K/uL
        [image002.jpg]
                            [**2132-12-9**]  10:25 AM
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
                            [**2132-12-10**]  04:43 PM
                            [**2132-12-10**]  04:55 PM
                            [**2132-12-11**]  04:14 AM
   WBC
   24.3
   27.9
   32.5
   31.8
   33.9
   28.9
   Hct
   27.5
   25.4
   26.4
   24.8
   25.1
   24.3
   Plt
   [**Telephone/Fax (2) 10668**]
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   27
   26
   Glucose
   105
   94
   121
   121
   98
   95
   Other labs: PT / PTT / INR:13.4/41.2/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.5 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL,
   LDH:254 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Lactate: 0.8
   Microbiology:
   Blood cultures [**2132-12-7**]:  GPCs in clusters (coag negative staph)
   (others from [**2132-12-3**], [**2132-12-8**], [**12-10**] negative to date)
   .
   Sputum culture [**12-9**]  Pending
[**2132-12-8**] 4:54 pm SPUTUM      TRACHEOSTOMY TUBE-SUCTIONED.
   GRAM STAIN (Final [**2132-12-8**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      SMEAR REVIEWED; RESULTS CONFIRMED.
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
AMIKACIN--------------    16 S
CEFEPIME--------------    32 R
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     8 I
MEROPENEM-------------  =>16 R
PIPERACILLIN/TAZO----- =>128 R
TOBRAMYCIN------------     8 I
   .
   Splenic bed drain fluid [**2132-12-8**]:  4+   (>10 per 1000X FIELD): PMNS
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS
Peritoneal fluid GRAM STAIN (Final [**2132-12-8**]):
      REPORTED BY PHONE TO SHAINE KOTTATHLIS @ 0620 ON [**12-8**] - 11R.
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      3+   (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS, CHAINS, AND CLUSTERS.
  FLUID CULTURE (Preliminary):
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
   .
   C diff [**2132-12-8**], [**12-9**]:  positive
   Imaging:
   UE ultrasound: No DVTs present
   CXR this AM:  Generally fluid overloaded with areas of atelectasis.
   Vascular fullness, especially on the right in a wedge-shaped area (my
   read)
   Assessment and Plan
   80 yo male with complicated medical course over the past 3 months
   initially secondary to splenic bleed, c/b splenic abscess, splenectomy,
   colocutaneous fistula, intra-abdominal abscess s/p drainage,
   respiratory failure requiring tracheostomy, pleural effusion s/p
   thoracentesis c/b pneumothorax s/p chest tube placement, transferred
   from the floor for fever, tachycardia and hypoxia.
   .
   #.  Fever/Sepsis:  The patient has multiple sources for bacteremia
   (GPCs in blood [**2132-12-7**]), pneumonia (sputum growing pseudomonas,
   including intra-abdominal abscess/colocutaneous fistula (drain growing
   4+GNR, 4+ gram pos rods, 3+ GPCs), and most obvious source for
   overwhelming infection would be C diff, especially given finding of
   pneumatosis on CT (although that could be explained by  colocutaneous
   fistula). Now fluid resuscitated, with pressors weaned off.
   - patient off pressors, maintaining MAP > 65.
   - Treat C diff with vanc PO, and PR, flagyl (day 3) and tigecycline
   (day 2) for supplemental c diff treatment
   - Tigecycline also covers for coag negative staph in blood
   - added on sensitivities from sputum Cx to colistin (this would be only
   treatment of pseudomonas pna)
   - ID following, recs appreciated
   - resent sputum
   - will not treat pseudomonas in sputum unless clinically deteriorates
   given side effect profile of colistin
   .
   # LLQ abdominal pain: Could be secondary to known C diff infection, or
   reaccumulation of prior fluid collection.  Finding of pneumatosis on CT
   scan concerning for ischemic colitis, but lactate has remained low.
   - Surgery following, recs appreciated
   - Per surgery, will hold off on repeat CT for now because of improved
   exam
   - will likely do repeat CT within the next few days to evaluate for
   reaccumulation of abdominal fluid collection
   .
   #.  Tachycardia:  The patient was thought to be in atrial fibrillation
   on the floor, s/p multiple boluses of nodal agents including metoprolol
   and diltiazem.  EKG on arrival appeared to be more likely to be sinus
   tachycardia.  Resolved initially with aggressive fluid resuscitation,
   but has now resume.  Most likely cause of tachycardia is discomfort and
   dyspnea given cough and increased secretions.  Another possibility
   would be PE, but patient has been on DVT ppx since admission.
   - gentle diuresis today to improve dypnea
   - aggressive suctioning, chest PT, nebs
   - would consider imaging to eval for PE if persists
   #.  Hypoxia:  Likely secondary to aspiration pneumonitis in setting of
   COPD and tracheobronchomalacia, CXR shows LLL pna.  The patient has had
   a left sided diagnostic thoracentesis with subsequent pneumothorax
   during this admission.  CXR on arrival shows developing left sided
   infiltrate, likely secondary to recent aspiration event.  No evidence
   of recurrence of pleural effusion or pneumothorax.  Will maintain on
   trach mask and wean as tolerated.  Will do aggressive suctioning as
   needed.
   - gentle diuresis with goal 500cc neg today
   - repeat sputum Cx
   - daily CXR
   - aggressive suctioning, chest PT and standing nebs
   - f/u pending sputum cultures
   .
   .
   #.  CAD:  EKG on arrival shows sinus tachycardia, no ischemic changes.
   Will continue aspirin, statin and hold metoprolol given hypotension.
   .
   #.  HTN:  Currently hypotensive, hold all anti-hypertensives.
   .
   #.  HLD:  Continue statin.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Insulin SS
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   Multi Lumen - [**2132-12-9**] 11:14 AM
 remove today?  Place rt subclavian?
   Arterial Line - [**2132-12-9**] 11:16 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: antiemetic regimen
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 1509**] [**Last Name (NamePattern1) 9603**] Daughter (h)
   [**Telephone/Fax (1) 10635**], (c)[**Telephone/Fax (1) 10636**]
   Code status: Full Code
   Disposition: ICU

2132-12-11 11:35:00 Physician Attending Progress Note
Chief Complaint: sepsis, severe c diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2132-12-10**] 08:07 PM
   off pressors
   had increasing HR overnight, transient response to IVFs
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2132-12-9**] 07:30 AM
   Cefipime - [**2132-12-9**] 10:09 PM
   Metronidazole - [**2132-12-11**] 06:20 AM
   Vancomycin - [**2132-12-11**] 06:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-12-10**] 10:02 PM
   Famotidine (Pepcid) - [**2132-12-11**] 08:14 AM
   Other medications:
   Reviewed (per [**Month (only) **])
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-11**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.4
C (95.7
   HR: 122 (87 - 122) bpm
   BP: 103/53(71) {86/45(61) - 118/66(86)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,083 mL
                                                                  1,419 mL
   PO:
             TF:
   IVF:
                                                                  2,663 mL
                                                                  1,229 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    405 mL
   Urine:
                                                                  2,345 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    738 mL
                                                                  1,014 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.46/35/82.[**Numeric Identifier 253**]/23/1
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Bowel sounds present, Distended but soft and NT
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  warm
   Neurologic: Attentive and alert
   Labs / Radiology
   7.6 g/dL
   346 K/uL
   95 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   17 mg/dL
   108 mEq/L
   137 mEq/L
   24.3 %
   28.9 K/uL
        [image002.jpg]
                            [**2132-12-9**]  10:25 AM
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
                            [**2132-12-10**]  04:43 PM
                            [**2132-12-10**]  04:55 PM
                            [**2132-12-11**]  04:14 AM
   WBC
   24.3
   27.9
   32.5
   31.8
   33.9
   28.9
   Hct
   27.5
   25.4
   26.4
   24.8
   25.1
   24.3
   Plt
   [**Telephone/Fax (2) 10668**]
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   27
   26
   Glucose
   105
   94
   121
   121
   98
   95
   Other labs: PT / PTT / INR:13.4/41.2/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.5 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL,
   LDH:254 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: cxr-- RLL opacification
atelectasis/infiltrate, full hilar
   vessels
   Microbiology: Reviewed
   Assessment and Plan
   80M w/ complicated [**1-22**] mo course following traumatic splenic laceration
   with surgical splenectomy, c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]-cutaneous fistula, intraabdominal
   abscess w/ percutaneous drain s/p antibx course,  tracheostomy,
   recent  pleural effusion s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] c/b PNX  s/p [**Hospital 1650**] transferred to MICU
   w/ sepsis from severe c diff. infection.  Improving from septic
   standpoint with stable BP off pressors.
   Agree with plan to continue aggressive treatment for severe c diff with
   PO/PR vanco and flagyl day 3.  LLQ abd tenderness has resolved, so will
   hold on repeat imaging at this time.  Would continue to monitor serial
   abd exams. Surgery and ID input appreciated.  Will continue day [**2-23**]
   vanco IV for CNS line infection.  Remains on tigecycline day 2 for
   broad coverage and additional c diff effect.   His profound
   leukocytosis is trending down and he has been AF.
   --He remains stable from a resp standpoint on TC without change in O2
   requirements though he continues to have sputum production and has new
   RLL atelectasis/opacity on todays cxr.  Also appears wet.  Has known
   resistant PSA in sputum.  Will monitor I/Os and consider gentle
   diuresis late in day with clinical reassessment.  Would repeat sputum
   eval.  If change in O2 requirement with input of ID team consider
   treating ( starting colistin for HAP). Follow O2 sats and clinical
   status closely.
   -The etiology of his tachycardia is likely multifactorial
related to
   cough, possible component of pulm edema, concern for ongoing infection,
   though he is AF and is maintaing his MAPS off pressors and continue
   with adequate urine outpt. Low suspicion for PE though this is in ddx.
   He remains on DVT prophylaxis. Will follow clinical exam, trend
   lactate, with low threshold to add PSA coverage and reimage abd.
    Remainder as outlined in resident note.
   ICU Care
   Nutrition: d/w surgery initiating TFS or consider starting TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   Multi Lumen - [**2132-12-9**] 11:14 AM
will d/c once picc in place
   Arterial Line - [**2132-12-9**] 11:16 AM
will d/c
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  H2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-12-12 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
 MULTI LUMEN - STOP [**2132-12-11**] 09:00 PM
   -per ID, stopped IV vanco because tigecycline will cover coag negative
   staph as well
   -Colistin sensitivities sent to [**Hospital1 **]
   -no CT in am because surgery thought abd exam improved.  ID says they
   still want repeat abd CT in next 2 days or so.
   -Surgery recs: Do not feed or start TPN yet, maybe tomorrow but they
   will let us know
   -UOP dropped off -> 20 IV lasix x2
   -got 3 peripherals and pulled femoral line.  Tip sent for culture.
   Plan to get PICC tomorrow (not placed today because of leukocytosis)
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2132-12-9**] 07:30 AM
   Cefipime - [**2132-12-9**] 10:09 PM
   Vancomycin - [**2132-12-12**] 06:00 AM
   Metronidazole - [**2132-12-12**] 06:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-12-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-12-11**] 10:00 PM
   Furosemide (Lasix) - [**2132-12-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-12**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 122 (100 - 128) bpm
   BP: 118/67(86) {73/39(53) - 135/73(94)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,956 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                  1,706 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,470 mL
   Urine:
                                                                  1,660 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                 -1,298 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   436 K/uL
   8.4 g/dL
   81 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   27.0 %
   20.5 K/uL
        [image002.jpg]
                            [**2132-12-9**]  10:25 AM
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
                            [**2132-12-10**]  04:43 PM
                            [**2132-12-10**]  04:55 PM
                            [**2132-12-11**]  04:14 AM
                            [**2132-12-12**]  04:44 AM
   WBC
   24.3
   27.9
   32.5
   31.8
   33.9
   28.9
   20.5
   Hct
   27.5
   25.4
   26.4
   24.8
   25.1
   24.3
   27.0
   Plt
   [**Telephone/Fax (2) 10668**]
   436
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   25
   27
   26
   Glucose
   105
   94
   121
   121
   98
   95
   81
   Other labs: PT / PTT / INR:13.4/41.2/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.5 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL,
   LDH:254 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Imaging: [**12-11**] CXR: newly developed RLL opacity, new focus of infection
   versus aspiration. Progression of LLL consolidation; it most likely
   represents new aspiration pneumonia
   [**12-12**] CXR: Stable vs improved.
   Microbiology: 12/21+22: Cdiff positive
   [**12-8**] peritoneal: gent and tobra sensitive.
   [**12-8**] sputum: pseudomonas, colisitin sensi pending.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PNEUMONIA, ASPIRATION
   80 yo male with complicated medical course over the past 3 months
   initially secondary to splenic bleed, c/b splenic abscess, splenectomy,
   colocutaneous fistula, intra-abdominal abscess s/p drainage,
   respiratory failure requiring tracheostomy, pleural effusion s/p
   thoracentesis c/b pneumothorax s/p chest tube placement, transferred
   from the floor for fever, tachycardia and hypoxia.
   .
   #.  Fever/Sepsis:  The patient has multiple sources for bacteremia
   (GPCs in blood [**2132-12-7**]), pneumonia (sputum growing pseudomonas,
   including intra-abdominal abscess/colocutaneous fistula (drain growing
   4+GNR, 4+ gram pos rods, 3+ GPCs), and most obvious source for
   overwhelming infection would be C diff, especially given finding of
   pneumatosis on CT (although that could be explained by  colocutaneous
   fistula). Now fluid resuscitated, with pressors weaned off.
   - patient off pressors, maintaining MAP > 65.
   - Treat C diff with vanc PO, and PR, flagyl (day 3) and tigecycline
   (day 2) for supplemental c diff treatment
   - Tigecycline also covers for coag negative staph in blood
   - added on sensitivities from sputum Cx to colistin (this would be only
   treatment of pseudomonas pna)
   - ID following, recs appreciated
   - resent sputum
   - will not treat pseudomonas in sputum unless clinically deteriorates
   given side effect profile of colistin
   .
   # LLQ abdominal pain: Could be secondary to known C diff infection, or
   reaccumulation of prior fluid collection.  Finding of pneumatosis on CT
   scan concerning for ischemic colitis, but lactate has remained low.
   - Surgery following, recs appreciated
   - Per surgery, will hold off on repeat CT for now because of improved
   exam
   - will likely do repeat CT within the next few days to evaluate for
   reaccumulation of abdominal fluid collection
   .
   #.  Tachycardia:  The patient was thought to be in atrial fibrillation
   on the floor, s/p multiple boluses of nodal agents including metoprolol
   and diltiazem.  EKG on arrival appeared to be more likely to be sinus
   tachycardia.  Resolved initially with aggressive fluid resuscitation,
   but has now resume.  Most likely cause of tachycardia is discomfort and
   dyspnea given cough and increased secretions.  Another possibility
   would be PE, but patient has been on DVT ppx since admission.
   - gentle diuresis today to improve dypnea
   - aggressive suctioning, chest PT, nebs
   - would consider imaging to eval for PE if persists
   #.  Hypoxia:  Likely secondary to aspiration pneumonitis in setting of
   COPD and tracheobronchomalacia.  The patient has had a left sided
   diagnostic thoracentesis with subsequent pneumothorax during this
   admission.  Additionally imaging shows pulmonary edema.  Will maintain
   on trach mask and wean as tolerated.  Will do aggressive suctioning as
   needed.
   - gentle diuresis with goal 500cc neg today
   - repeat sputum Cx
   - daily CXR
   - aggressive suctioning, chest PT and standing nebs
   - f/u pending sputum cultures
   .
   #.  CAD:  EKGs have shown sinus tachycardia, no ischemic changes.  Will
   continue aspirin, statin and hold metoprolol given hypotension.
   .
   #.  HTN:  Hold all anti-hypertensives for now.
   .
   #.  HLD:  Continue statin.
   ICU Care
   Nutrition: NPO for now, to be discussed daily w/ surgery
   Glycemic Control:  Insulin SS
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   Multi Lumen - [**2132-12-9**] 11:14 AM
 will attempt to place picc line and
   pull femoral line.
   Arterial Line - [**2132-12-9**] 11:16 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: antiemetic regimen
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 1509**] [**Last Name (NamePattern1) 9603**] Daughter (h)
   [**Telephone/Fax (1) 10635**], (c)[**Telephone/Fax (1) 10636**]
   Code status: Full Code
   Disposition: ICU

2132-12-12 11:21:00 Physician Attending Progress Note
Chief Complaint: sepsis/Cdiff,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2132-12-11**] 09:00 PM
   *Vancomycin stopped
   *Improved abd exam, so CT deferred
   *lasix 20 mg IV twice for decreased urine output
   *femoral CVL pulled, peripherals only
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2132-12-9**] 10:09 PM
   Vancomycin - [**2132-12-12**] 06:00 AM
   Metronidazole - [**2132-12-12**] 06:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-12-12**] 12:00 AM
   Famotidine (Pepcid) - [**2132-12-12**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2132-12-12**] 08:44 AM
   Other medications:
   advair, famotidine, atrovent, ASA, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-12**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 111 (100 - 128) bpm
   BP: 131/65(88) {97/49(66) - 135/73(94)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,956 mL
                                                                    260 mL
   PO:
             TF:
   IVF:
                                                                  1,706 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,830 mL
   Urine:
                                                                  1,660 mL
                                                                  1,830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                 -1,570 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, trach
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  normal turgor, no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   436 K/uL
   81 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   27.0 %
   20.5 K/uL
        [image002.jpg]
                            [**2132-12-9**]  10:25 AM
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
                            [**2132-12-10**]  04:43 PM
                            [**2132-12-10**]  04:55 PM
                            [**2132-12-11**]  04:14 AM
                            [**2132-12-12**]  04:44 AM
   WBC
   24.3
   27.9
   32.5
   31.8
   33.9
   28.9
   20.5
   Hct
   27.5
   25.4
   26.4
   24.8
   25.1
   24.3
   27.0
   Plt
   [**Telephone/Fax (3) 10668**]
   436
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   25
   27
   26
   Glucose
   105
   94
   121
   121
   98
   95
   81
   Other labs: PT / PTT / INR:13.4/41.2/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.5 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL,
   LDH:254 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR: RML infiltrate appears decreased
   Microbiology: [**12-8**], [**12-9**] +Cdiff
   Sputum: pseudomonas
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PNEUMONIA, ASPIRATION
   80 yo male with splenic lac c/b splenic abscess, colocutaneous fistula
   HD 9, ICU day 3 for severe Cdiff sepsis
   1. Sepsis: Appears improved with decreasing fevers and resolving
   leukocytosis
   On tegacycline/vanc/flagyl
   Surgery and ID following
   Waiting for colistin sensitivities on Pseudomonas cultures, no current
   plans to add pseudomonas coverage as this appears a contaminant and not
   an infection
   2. Hypotension: improved with fluids, currently off pressors. Continue
   to support for MAP>60
   3. Nutrition: will discuss with surgery whether pt
s diet can be
   advanced
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   Arterial Line - [**2132-12-9**] 11:16 AM
   18 Gauge - [**2132-12-11**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Pt is critically ill

2132-12-12 17:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: sepsis
   24 Hour Events:
 MULTI LUMEN - STOP [**2132-12-11**] 09:00 PM
   - stopped IV vanco b/c coag negative staph covered by tigecycline.
   - colistin sensi's sent to [**Hospital3 **].
   - no CT scan done as exam improved
   - surgery says no TPN yet, possibly tomorrow.
   - UOP down, so gave 20mg IV lasix x2.
   - got 3 peripherals and pulled fem line.  Tip sent for culture.  Plan
   to get PICC tomorrow.
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2132-12-9**] 10:09 PM
   Vancomycin - [**2132-12-12**] 06:00 AM
   Metronidazole - [**2132-12-12**] 01:31 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-12-12**] 12:00 AM
   Famotidine (Pepcid) - [**2132-12-12**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2132-12-12**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-12**] 05:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 108 (108 - 128) bpm
   BP: 125/64(86) {108/54(74) - 135/73(94)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,956 mL
                                                                    423 mL
   PO:
             TF:
   IVF:
                                                                  1,706 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  2,190 mL
   Urine:
                                                                  1,660 mL
                                                                  2,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                 -1,767 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Awake, alert and interactive on trach mask. Lungs clear anteriorly,
   heart sounds distant and tachy, but regular.  Abdomen w/ clean
   dressings in place, +BS, soft, NTND.  LE wwp w/o signs of edema.
   CNII-XII intact, moving all extremities, writing in full sentences.
   Labs / Radiology
   436 K/uL
   8.4 g/dL
   81 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   27.0 %
   20.5 K/uL
        [image002.jpg]
                            [**2132-12-9**]  10:25 AM
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
                            [**2132-12-10**]  04:43 PM
                            [**2132-12-10**]  04:55 PM
                            [**2132-12-11**]  04:14 AM
                            [**2132-12-12**]  04:44 AM
   WBC
   24.3
   27.9
   32.5
   31.8
   33.9
   28.9
   20.5
   Hct
   27.5
   25.4
   26.4
   24.8
   25.1
   24.3
   27.0
   Plt
   [**Telephone/Fax (3) 10668**]
   436
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   25
   27
   26
   Glucose
   105
   94
   121
   121
   98
   95
   81
   Other labs: PT / PTT / INR:13.4/41.2/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.5 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL,
   LDH:254 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Imaging: [**12-11**] CXR: new RLL opacity, infection vs aspiration.
   Progression of LLL conslidation, most likely a new aspiration PNA.
   [**12-12**]: stable or slightly improved.
   Microbiology: [**12-8**] and 22: Cdiff positive
   [**12-8**] peritoneal fluid: pseudomonas, gent and tobra sensitive.
   [**12-8**] sputum: resistant pseudomonas, colistin sensi pending.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PNEUMONIA, ASPIRATION
   80 yo male with complicated medical course over the past 3 months
   initially secondary to splenic bleed, c/b splenic abscess, splenectomy,
   colocutaneous fistula, intra-abdominal abscess s/p drainage,
   respiratory failure requiring tracheostomy, pleural effusion s/p
   thoracentesis c/b pneumothorax s/p chest tube placement, transferred
   from the floor for fever, tachycardia and hypoxia.
   .
   #.  Fever/Sepsis:  The patient has multiple sources for bacteremia
   (GPCs in blood [**2132-12-7**]), pneumonia (sputum growing pseudomonas,
   including intra-abdominal abscess/colocutaneous fistula (drain growing
   4+GNR, 4+ gram pos rods, 3+ GPCs), and most obvious source for
   overwhelming infection would be C diff, especially given finding of
   pneumatosis on CT (although that could be explained by  colocutaneous
   fistula). Now fluid resuscitated, now off of pressors and looking well.
   - Treat C diff with vanc PO, and PR, flagyl (day 4) and tigecycline
   (day 3) for supplemental c diff treatment
   - Tigecycline also covers for coag negative staph in blood
   - sputum cx sensitivities to colistin pending, would only be used to
   treat pseudomonas if patient were to deteriorate significantly.
   - ID following, recs appreciated
   - f/u pending cultures.
   .
   #.  Hypoxia:  Likely secondary to aspiration pneumonitis in setting of
   COPD and tracheobronchomalacia.  The patient has had a left sided
   diagnostic thoracentesis with subsequent pneumothorax during this
   admission.  Additionally imaging shows pulmonary edema.  Will maintain
   on trach mask and wean as tolerated.  Will do aggressive suctioning as
   needed.
   - repeat sputum Cx
   - daily CXR
   - aggressive suctioning, chest PT and standing nebs
   - f/u pending sputum cultures
   .
   #.  Tachycardia:  The patient was thought to be in atrial fibrillation
   on the floor, s/p multiple boluses of nodal agents including metoprolol
   and diltiazem.  EKG on arrival appeared to be more likely to be sinus
   tachycardia.  Resolved initially with aggressive fluid resuscitation,
   but has now resumed.  Most likely cause of tachycardia is discomfort
   and dyspnea given cough and increased secretions.  Another possibility
   would be PE, but patient has been on DVT ppx since admission.
   - gentle diuresis today to improve dypnea
   - aggressive suctioning, chest PT, nebs
   .
   #.  CAD:  EKGs have shown sinus tachycardia, no ischemic changes.  Will
   continue aspirin, statin and hold metoprolol given hypotension.
   .
   #.  HTN:  Hold all anti-hypertensives for now.
   .
   #.  HLD:  Continue statin.
   ICU Care
   Nutrition: NPO for now, will discuss tube feeds versus tpn with surgery
   again today after getting KUB.
   Glycemic Control:  Insulin SS
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   PICC placed this afternoon
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: antiemetic regimen
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 1509**] [**Last Name (NamePattern1) 9603**] Daughter (h)
   [**Telephone/Fax (1) 10635**], (c)[**Telephone/Fax (1) 10636**]
   Code status: Full Code
   Disposition: ICU

2132-12-13 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight events:  None
   24 Hour summary:
   - PICC placed
   - KUB showed moderate to severe dilatation so surgery did not want to
   start tube feeds.  [**Doctor First Name **] doesn't want TPN at this time either.
   - ID recs: given no signs of PNA, do not need to treat sputum
   pseudomona; can likely discontinue IV flagyl and vanco.  Nausea likely
   [**1-21**] tigecycline.
   - Patient passing stool and not retaining PR vanco, so PR dose
   discontinued
   - Added albuterol to med regimen
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2132-12-13**] 06:00 AM
   Vancomycin - [**2132-12-13**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-12-12**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-12-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:  None.
   Flowsheet Data as of  [**2132-12-13**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 85 (84 - 116) bpm
   BP: 102/57(76) {75/50(69) - 140/114(125)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    715 mL
                                                                    196 mL
   PO:
             TF:
   IVF:
                                                                    715 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    370 mL
   Urine:
                                                                  2,630 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,915 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   404 K/uL
   7.7 g/dL
   86 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.4 mEq/L
   16 mg/dL
   108 mEq/L
   140 mEq/L
   24.7 %
   14.8 K/uL
        [image002.jpg]
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
                            [**2132-12-10**]  04:43 PM
                            [**2132-12-10**]  04:55 PM
                            [**2132-12-11**]  04:14 AM
                            [**2132-12-12**]  04:44 AM
                            [**2132-12-13**]  03:34 AM
   WBC
   27.9
   32.5
   31.8
   33.9
   28.9
   20.5
   14.8
   Hct
   25.4
   26.4
   24.8
   25.1
   24.3
   27.0
   24.7
   Plt
   374
   375
   369
   367
   346
   436
   404
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.5
   0.5
   TCO2
   25
   27
   26
   Glucose
   94
   121
   121
   98
   95
   81
   86
   Other labs: PT / PTT / INR:13.9/36.9/1.2, ALT / AST:14/17, Alk Phos / T
   Bili:86/0.3, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.5 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:1.7 g/dL,
   LDH:159 IU/L, Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Microbiology: Preliminary:  [**2132-12-11**] 9:21 pm SPUTUM    Source:
   Endotracheal.
      GRAM STAIN (Final [**2132-12-12**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   [**12-10**]: Urine, wound, and blood cultures pending.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PNEUMONIA, ASPIRATION
   80 yo male with complicated medical course over the past 3 months
   initially secondary to splenic bleed, c/b splenic abscess, splenectomy,
   colocutaneous fistula, intra-abdominal abscess s/p drainage,
   respiratory failure requiring tracheostomy, pleural effusion s/p
   thoracentesis c/b pneumothorax s/p chest tube placement, transferred
   from the floor for fever, tachycardia and hypoxia.
   .
   #.  Fever/Sepsis:  The patient has multiple sources for bacteremia
   (GPCs in blood [**2132-12-7**]), pneumonia (sputum growing pseudomonas,
   including intra-abdominal abscess/colocutaneous fistula (drain growing
   4+GNR, 4+ gram pos rods, 3+ GPCs), and most obvious source for
   overwhelming infection would be C diff, especially given finding of
   pneumatosis on CT (although that could also be explained by
   colocutaneous fistula). Now fluid resuscitated, now off of pressors and
   looking well.
   - Treat C diff with vanc PO, flagyl (day 4) and tigecycline (day 3) for
   supplemental c diff treatment; discontinued PR vanc because patient
   wouldn
t tolerate
   - Tigecycline also covers for coag negative staph in blood
   - sputum cx sensitivities to colistin pending, would only be used to
   treat pseudomonas if patient were to deteriorate significantly.
   - ID following, recs appreciated
   - f/u pending cultures.
   .
   #.  Hypoxia:  Likely secondary to aspiration pneumonitis in setting of
   COPD and tracheobronchomalacia.  The patient has had a left sided
   diagnostic thoracentesis with subsequent pneumothorax during this
   admission.  Additionally imaging shows pulmonary edema.  Will maintain
   on trach mask and wean as tolerated.  Will do aggressive suctioning as
   needed.
   - repeat sputum Cx pending
   - daily CXR
   - aggressive suctioning, chest PT and standing nebs
   - f/u pending sputum cultures
   .
   #.  Tachycardia:  The patient was thought to be in atrial fibrillation
   on the floor, s/p multiple boluses of nodal agents including metoprolol
   and diltiazem.  EKG on arrival appeared to be more likely to be sinus
   tachycardia.  Resolved initially with aggressive fluid resuscitation,
   but has now resumed.  Most likely cause of tachycardia is discomfort
   and dyspnea given cough and increased secretions.  Another possibility
   would be PE, but patient has been on DVT ppx since admission.  This
   morning, tachycardia is resolving.
   - gentle diuresis today to improve dypnea only if needed
   - aggressive suctioning, chest PT, nebs
   .
   #.  CAD:  EKGs have shown sinus tachycardia, no ischemic changes.  Will
   continue aspirin, statin and hold metoprolol given hypotension.
   .
   #.  HTN:  Hold all anti-hypertensives for now.
   .
   #.  HLD:  Continue statin.
   ICU Care
   Nutrition: NPO for now, will continue to discuss the issue of tube
   feeds/TPN with surgery
   Glycemic Control:  Insulin SS
   Lines:
   22 Gauge - [**2132-12-9**] 04:35 AM
   20 Gauge - [**2132-12-9**] 04:36 AM
   PICC placed this afternoon
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: antiemetic regimen
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 1509**] [**Last Name (NamePattern1) 9603**] Daughter (h)
   [**Telephone/Fax (1) 10635**], (c)[**Telephone/Fax (1) 10636**]
   Code status: Full Code
   Disposition: ICU

2132-12-13 12:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo male with splenic lap c/b splenic abscess s/p splenectomy,
   colocutaneous fistula
   Admitted with CDiff/septic shock
   24 Hour Events:
 PICC LINE - START [**2132-12-12**] 01:00 PM
   KUB showed severe dil loops of [**Last Name (un) **]
                   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   sleep walking;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2132-12-13**] 06:00 AM
   Vancomycin - [**2132-12-13**] 12:11 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-12-13**] 07:55 AM
   Heparin Sodium (Prophylaxis) - [**2132-12-13**] 08:00 AM
   Other medications:
   Advair 250/50, [**Last Name (un) 3210**], SSI, tylenol prn, zofran prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-13**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 87 (77 - 116) bpm
   BP: 120/56(82) {75/50(69) - 140/114(125)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    715 mL
                                                                    493 mL
   PO:
             TF:
   IVF:
                                                                    715 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    675 mL
   Urine:
                                                                  2,630 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,915 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///26/
   PaO2 / FiO2: 40%
   Physical Examination
   General Appearance: Well nourished, smiling, interactive
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   OG tube +trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical)
   bilateral rhonchi and wheezing
   Abdominal: Soft, Bowel sounds present, nontender, stoma bag
   clear/intact
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds toverbal commands, Movement: purposeful, Tone:
   normal
   Labs / Radiology
   7.7 g/dL
   404 K/uL
   86 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.4 mEq/L
   16 mg/dL
   108 mEq/L
   140 mEq/L
   24.7 %
   14.8 K/uL
        [image002.jpg]
                            [**2132-12-9**]  03:38 PM
                            [**2132-12-9**]  10:12 PM
                            [**2132-12-9**]  10:27 PM
                            [**2132-12-10**]  05:38 AM
                            [**2132-12-10**]  05:55 AM
                            [**2132-12-10**]  04:43 PM
                            [**2132-12-10**]  04:55 PM
                            [**2132-12-11**]  04:14 AM
                            [**2132-12-12**]  04:44 AM
                            [**2132-12-13**]  03:34 AM
   WBC
   27.9
   32.5
   31.8
   33.9
   28.9
   20.5
   14.8
   Hct
   25.4
   26.4
   24.8
   25.1
   24.3
   27.0
   24.7
   Plt
   374
   375
   369
   367
   346
   436
   404
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.5
   0.5
   TCO2
   25
   27
   26
   Glucose
   94
   121
   121
   98
   95
   81
   86
   Other labs: PT / PTT / INR:13.9/36.9/1.2, ALT / AST:14/17, Alk Phos / T
   Bili:86/0.3, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.5 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:1.7 g/dL,
   LDH:159 IU/L, Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Microbiology: Sputum GS [**12-12**]: 4+GNR's- Pseudomonas, [**Last Name (un) 46**]. pending,
   Urine blood wound cx's [**12-10**] all pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PNEUMONIA, ASPIRATION
   80 yo male with splenic lap c/b splenic abscess s/p splenectomy,
   colocutaneous fistula
   Admitted with CDiff/septic shock
   Cdiff colitis:
   Improved- off pressors, WBC decreasing
   On po vanc/tegacycline
   DC iv flagyl per ID
   +Pseudomonas cultures
   Felt to represent colonization. Continue to withold abx therapy
   Nutrition
   Cleared by surgery for enteral feeds, will obtain nutrition consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-12-9**] 11:16 AM
   PICC Line - [**2132-12-12**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to telemetry
   Total time spent: